US07700786B2
Triethylamine (0.13 g, 1.3 mmol) and phenyl isocyanate (0.15 g, 1.3 mmol) were added to a solution of 3-(3-chlorophenyloxy)-5-methylpyrazole (0.25 g, 1.2 mmol) in ethyl acetate (5 ml) at 0° C., and while the mixture was allowed to have room temperature gradually, it was stirred for 6 hours. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (10 ml) and extracted with ethyl acetate (10 ml×2). An organic layer was washed with water (10 ml×2), dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/15), to give a yellow viscous substance of N-phenyl-3-(3-chlorophenyloxy)-5-methylpyrazole-1-carboxamide (0.34 g, yield: 84.5%). 1H-NMR (CDCl3, TMS, ppm): δ 2.66 (d, J=0.8 Hz, 3H), 5.78 (q, J=0.8 Hz, 1H), 7.05-7.11 (m, 1H), 7.14-7.21 (m, 3H), 7.28-7.39 (m, 3H), 7.52-7.56 (m, 2H), 8.91 (br s, 1H).

reactant | Triethylamine | 1.3 mmol, 0.13 g | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 1.3 mmol, 0.15 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 3-(3-chlorophenyloxy)-5-methylpyrazole | 1.2 mmol, 0.25 g | ClC=1C=C(C=CC1)OC1=NNC(=C1)C | C10H9ClN2O
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-phenyl-3-(3-chlorophenyloxy)-5-methylpyrazole-1-carboxamide | 0.34 g, yield: 84.5% | C1(=CC=CC=C1)NC(=O)N1N=C(C=C1C)OC1=CC(=CC=C1)Cl | C17H14ClN3O2
